US07713994B2
4-Chloro-3,5-dimethyl-1-(4-nitro-phenyl)-1H-pyrazole hydrochloride (450 mg, 1.56 mmol) is dissolved in MeOH (40 mL). To this solution is then added FeCl3.6H2O (24 mg, 0.09 mmol) and active carbon (12 mg, 1 mmol). The suspension is heated to reflux. Hydrazine (2.0 mL) is added, and reflux is continued for 3 h or until TLC detected full conversion. After conversion the mixture is cooled to room temperature, the active carbon is filtered off using celite and the MeOH under reduced pressure. The residue is purified with flash chromatography to provide the 4-(4-Chloro-3,5-dimethyl-pyrazol-1-yl)-phenylamine (360 mg, 91%). MS (ESI): 222, 224 (M+1)+1.

reactant | 4-Chloro-3,5-dimethyl-1-(4-nitro-phenyl)-1H-pyrazole hydrochloride | 1.56 mmol, 450 mg | Cl.ClC=1C(=NN(C1C)C1=CC=C(C=C1)[N+](=O)[O-])C
reactant | Hydrazine | 2.0 mL | NN | H4N2
solvent | MeOH | 40 mL | CO | CH4O
product | 4-(4-Chloro-3,5-dimethyl-pyrazol-1-yl)-phenylamine | 360 mg, 91% | ClC=1C(=NN(C1C)C1=CC=C(C=C1)N)C | C11H12ClN3
